US08034814B2
17a) 5-Bromo-6-methoxy-pyridin-3-carbaldehyde
(see Eur. J. Med. Chem.-Chim. Ther. 1977, 12, 531) 54.8 g (400 mMol) 6-methoxy-3-pyridinecarbaldehyde (Aldrich) are dissolved in 180 ml of acetic acid. 63.8 g (778 mMol) sodium acetate are added portionwise (slightly exothermic). Then a solution of 30 ml (582 mMol) of bromine in 120 ml of acetic acid is added dropwise during 30 min. The mixture is stirred for 5 h at 90° C., then cooled to RT and concentrated partially in vacuo. The residue is diluted with icewater, neutralized to pH 7.5 with 4 N NaOH and extracted with 4 portions of EtOAc. The organic layers are washed twice with water and brine, dried (Na2SO4) and concentrated in vacuo. Column chromatography (SiO2; CH2Cl2) of the resulting oil and crystallization from CH2Cl2/hexane gives the title compound: mp: 94-95° C.

reactant | 6-methoxy-3-pyridinecarbaldehyde | 400 mMol, 54.8 g | COC1=CC=C(C=N1)C=O | C7H7NO2
reactant | sodium acetate | 778 mMol, 63.8 g | C(C)(=O)[O-].[Na+]
reactant | bromine | 582 mMol, 30 ml | BrBr | Br2
solvent | acetic acid | 180 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 120 ml | C(C)(=O)O | C2H4O2
product | 5-Bromo-6-methoxy-pyridin-3-carbaldehyde | BrC=1C=C(C=NC1OC)C=O | C7H6BrNO2
